US03992408
A suspension of 7-chloro-5-phenyl-2-[[3-(dimethylamino)acetonyl]amino]-3H-1,4-benzodiazepine, ethylene ketal (1.5 mmole) is heated to 110 to 120° in diethylene glycol under nitrogen for 20 hours. The above mixture is cooledand evaporated to dryness in vacuo leaving behind a white oil. This is crystallized from ethyl acetate/hexane to give 8-chloro-1-[(dimethylamino)methyl]-6-phenyl-4H-imidazo]1,2-a][1,4]benzodiazepine of melting point 181°--182° C.

reactant | 7-chloro-5-phenyl-2-[[3-(dimethylamino)acetonyl]amino]-3H-1,4-benzodiazepine | ClC=1C=CC2=C(C(=NCC(=N2)NCC(=O)CN(C)C)C2=CC=CC=C2)C1 | C20H21ClN4O
solvent | diethylene glycol | C(COCCO)O | C4H10O3
product | [1,4]benzodiazepine | N1C=CN=CC2=C1C=CC=C2 | C9H8N2
